### PR TITLE
[Merged by Bors] - feat(SimpleGraph): add more API for `take`/`drop`

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
The main lemma proves that taking `n` vertices of a walk results in a sub-walk of taking `k` vertices when `n` is less than or equal to `k`, alongside a similar lemma for dropping vertices.

---

- [x] depends on: #26655

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 1]
```diff
@@ -901,6 +901,20 @@ def drop {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk (p.getVert n) v :=
   | p, 0 => p.copy (getVert_zero p).symm rfl
   | .cons _ q, (n + 1) => q.drop n
 
+lemma drop_zero {u v} (p : G.Walk u v) :
+    p.drop 0 = p.copy (getVert_zero p).symm rfl := by
+  cases p <;> simp [Walk.drop]
+
+lemma drop_length_of_le {u v n} {p : G.Walk u v} (h : p.length ≤ n) :
+    p.drop n = Walk.nil.copy (p.getVert_of_length_le h).symm rfl := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Can we also have that `p.drop n` satisfies `Nil`? (then maybe this is easier to prove because there's at most one Nil walk between two vertices, but maybe not)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 2]
```diff
@@ -918,6 +932,36 @@ def take {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk u (p.getVert n) :=
...
+  induction n generalizing p u with
+  | zero => cases p <;> simp [Walk.take] at h ⊢
+  | succ n ih =>
+    cases p
+    · simp [Walk.take]
+    rw [Walk.length_cons, Nat.add_le_add_iff_right] at h
+    simp [Walk.take, ih h]
+
+lemma take_support_sublist_succ {u v} (p : G.Walk u v) (n : ℕ) :
+    (p.take n).support.Sublist (p.take (n + 1)).support := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]: We have notation `<+` for `List.Sublist`, I think scoped in `List`. It could be nice to use that here for readability? (and similarly below)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 3]
```diff
@@ -1069,6 +1113,28 @@ lemma support_tail_of_not_nil (p : G.Walk u v) (hnp : ¬p.Nil) :
...
+  induction t with
+  | zero => rfl
+  | succ t ih => exact (drop_support_sublist_succ p (n + t)).trans <| ih (n.le_add_right t)
+
+lemma drop_support_sublist {u v n} (p : G.Walk u v) :
+    (p.drop n).support.Sublist p.support := by
+  by_cases h : n ≤ p.length
+  · have : p.support = (p.drop 0).support := by cases p <;> simp [Walk.drop]
+    exact this ▸ drop_support_sublist_of_le p n.zero_le
+  simp [drop_length_of_le (not_le.mp h).le]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
  · simp [drop_length_of_le (not_le.mp h).le]
```
while it's fine for the last one to not have a dot if it's long, here the second case is longer and so I think it's more readable like this (and similar above)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 4]
```diff
@@ -918,6 +932,36 @@ def take {u v : V} (p : G.Walk u v) (n : ℕ) : G.Walk u (p.getVert n) :=
...
+lemma take_support_sublist_of_le {u v n k} (p : G.Walk u v) (h : n ≤ k) :
+    (p.take n).support.Sublist (p.take k).support := by
+  obtain ⟨t, rfl⟩ := Nat.exists_eq_add_of_le h
+  induction t with
+  | zero => rfl
+  | succ t ih => exact (ih (n.le_add_right t)).trans <| take_support_sublist_succ p (n + t)
+
+lemma take_support_sublist {u v n} (p : G.Walk u v) :
+    (p.take n).support.Sublist p.support := by
+  by_cases h : n ≤ p.length
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Using `le_or_lt` (which might be renamed to `le_or_gt`) might be nicer here, then you can avoid the `not_le.mp` step

**Review by b-mehta — APPROVED** [review]
LGTM! A few small comments, otherwise looks pretty good to go.

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 1 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: I can't think of a proof for the `Nil` version that's better than the `nil.copy` version, so how about I prove the `nil.copy` version first and then `Nil` becomes provable using just a `simp [drop_length_of_le]`?

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 2 above)
Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: `List` is not scoped in this file, but after [this](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/SimpleGraph.20sub-walks/with/526676287) discussion on Zulip, it seems like it is a good idea to have a `IsSubwalk` definition here, so how about I open another PR doing that, then rewrite these lemmas using that?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Yea but you could open the scope! But sure, IsSubwalk makes sense too.

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: That works. But now that I think about it, we probably should have `(p.take n).length = min n p.length`, and similar for drop, and then this could also be easier?

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: These are added in #25650

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: That's now merged, is it now easier?

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: It becomes easier if we introduce a new lemma (`eq_nil_copy_of_nil`), the issue is that I can't `subst` inside of `drop_length_of_le` because the variable will depend on what we are rewriting to. Is this okay or is there a better solution?

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 5]
```diff
@@ -870,12 +870,22 @@ lemma Nil.append {p : G.Walk u v} {q : G.Walk v w} (hp : p.Nil) (hq : q.Nil) : (
...
+  subst_vars; rfl
+
 /-- A walk with its endpoints defeq is `Nil` if and only if it is equal to `nil`. -/
 lemma nil_iff_eq_nil : ∀ {p : G.Walk v v}, p.Nil ↔ p = nil
   | .nil | .cons _ _ => by simp
 
 alias ⟨Nil.eq_nil, _⟩ := nil_iff_eq_nil
 
+lemma eq_nil_copy_of_nil {p : G.Walk u v} (h : p.Nil) :
+    p = nil.copy h.eq.symm rfl := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]: I think the rhs of this is making the nil walk from v to v, and copying it to a walk from u to v, right? Is it any nicer to make it as the walk from u to u, then changing the rhs. ie `nil.copy rfl h.eq`? That would propagate to `drop_length_of_le` etc

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: I think the new lemma is helpful anyway, so that approach seems great to me

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Putting this back to awaiting-author for the above

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Done, the lemmas are rewritten using the stronger `IsSubwalk` relation now.

File: Mathlib/Combinatorics/SimpleGraph/Walks/Subwalks.lean [hunk 6]
```diff
@@ -171,6 +176,35 @@ protected lemma IsSubwalk.tail {u v u' v'} {p : G.Walk u v} {q : G.Walk u' v'}
...
+    (p.take n).IsSubwalk (p.take (n + 1)) := by
+  cases p
+  · exact isSubwalk_take _ _
+  · cases n
+    · exact isSubwalk_of_append_left rfl
+    simp [getVert_cons_succ, take, isSubwalk_iff_support_isInfix, support_cons,
+      take_support_eq_support_take_succ, ← List.take_succ_cons, List.IsPrefix.isInfix]
+
+theorem take_isSubwalk_take {u v n k} (p : G.Walk u v) (h : n ≤ k) :
+    (p.take n).IsSubwalk (p.take k) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Subwalks.lean:173]: I'd prefer to just have this statement exposed, and not the special case with n+1. Ideally, with https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Init.html#Nat.le_induction or similar, the combined proof shouldn't be too bad.

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walks/Subwalks.lean:173]: Makes sense, thanks!

File: Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean [hunk 7]
```diff
@@ -592,6 +602,10 @@ lemma drop_zero {u v} (p : G.Walk u v) :
     p.drop 0 = p.copy (getVert_zero p).symm rfl := by
   cases p <;> simp [Walk.drop]
 
+lemma drop_length_nil_of_le {u v n} {p : G.Walk u v} (h : p.length ≤ n) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean]:
```suggestion
lemma nil_drop_of_length_le {u v n} {p : G.Walk u v} (h : p.length ≤ n) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean [hunk 8]
```diff
@@ -676,6 +690,16 @@ lemma not_nil_of_tail_not_nil {p : G.Walk v w} (hp : ¬ p.tail.Nil) : ¬ p.Nil :
   subst_vars
   rfl
 
+lemma eq_nil_copy_of_nil {p : G.Walk u v} (h : p.Nil) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean]:
```suggestion
lemma eq_copy_nil_of_nil {p : G.Walk u v} (h : p.Nil) :
```
or
```suggestion
lemma Nil.eq_copy_nil {p : G.Walk u v} (h : p.Nil) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean [hunk 9]
```diff
@@ -676,6 +690,16 @@ lemma not_nil_of_tail_not_nil {p : G.Walk v w} (hp : ¬ p.tail.Nil) : ¬ p.Nil :
...
+    p = nil.copy rfl h.eq := by
+  have := h.eq
+  subst this
+  simp [nil_iff_eq_nil.mp h]
+
+lemma drop_length_of_le {u v n} {p : G.Walk u v} (h : p.length ≤ n) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Walks/Operations.lean]:
```suggestion
lemma drop_of_length_le {u v n} {p : G.Walk u v} (h : p.length ≤ n) :
```

**Review by SnirBroshi — COMMENTED** [review]
Naming convention suggestions

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
